US08232289B2
Diisopropyl azodicarboxylate (0.105 mL, 0.54 mmol) is added to a solution of [2-[4-[(2-chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]-3-pyridyl]methanol (0.173 g, 0.36 mmol), phthalimide (0.079 mg, 0.54 mmol) and triphenylphosphine (0.142 g, 0.54 mmol) in toluene (3 mL) at 0° C. The mixture is stirred at room temperature overnight. The solvent is removed and the residue is purified first using a 2 g SCX cartridge and after evaporation of the 2 N ammonia in methanol fraction by normal phase Isco chromatography eluting with hexane/ethanol (3%-30%) to give 0.201 g of 2-[[2-[4-[(2-chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]-3-pyridyl]methyl]isoindoline-1,3-dione. MS (m/z): 610 (M+1).

reactant | Diisopropyl azodicarboxylate | 0.54 mmol, 0.105 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | [2-[4-[(2-chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]-3-pyridyl]methanol | 0.36 mmol, 0.173 g | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1CO)C)OCC2(F)F | C22H23ClF2N4O2S
reactant | phthalimide | 0.54 mmol, 0.079 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.54 mmol, 0.142 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[[2-[4-[(2-chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]-3-pyridyl]methyl]isoindoline-1,3-dione | 0.201 g | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1CN1C(C3=CC=CC=C3C1=O)=O)C)OCC2(F)F | C30H26ClF2N5O3S
